US07354942B2
3-[(Z)-2-(2-methylcyclopropyl)vinyl]-5-[propyl(methylsulfonyl)amino]benzoic acid (Scheme 6)
This compound was prepared analogously to 3-[(Z)-2-(2-methylcyclopropyl)vinyl]-5-[methyl(methylsulfonyl)amino]benzoic acid, the only difference being the substitution of methyl iodide with propyl iodide in Step D.

reactant | 3-[(Z)-2-(2-methylcyclopropyl)vinyl]-5-[methyl(methylsulfonyl)amino]benzoic acid | CC1C(C1)\C=C/C=1C=C(C(=O)O)C=C(C1)N(S(=O)(=O)C)C | C15H19NO4S
reactant | propyl iodide | C(CC)I | C3H7I
product | 3-[(Z)-2-(2-methylcyclopropyl)vinyl]-5-[propyl(methylsulfonyl)amino]benzoic acid | CC1C(C1)\C=C/C=1C=C(C(=O)O)C=C(C1)N(S(=O)(=O)C)CCC | C17H23NO4S
